US05958496
N-tert-butoxycarbonyl-D-valine (5.34 g, 24.6 mmols) and 5.31 g (24.6 mmols) of (RS)-α-methoxycarbonylmethylbenzylamine hydrochloride (S:R=2:1) were suspended in 100 ml of methylene chloride, and the suspension was maintained at 0° C. Triethylamine (3.78 ml, 27.1 mmols), 5.20 g (27.1 mmols) of water-soluble carbodiimide hydrochloride and 3.66 g (27.1 mmols) of HOBt were added thereto, and the mixture was stirred for 1 hour while being cooled and then overnight at room temperature. The reaction mixture was concentrated under reduced pressure, and 150 ml of water were then added to the residue. The solution was extracted twice with 100 ml of ethyl acetate. The organic layer was washed twice with 100 ml of a 5% citric acid aqueous solution, with 100 ml of a saturated aqueous solution of sodium chloride, twice with a 5% sodium hydrogencarbonate aqueous solution and with 100 ml of a saturated aqueous solution of sodium chloride. The organic layer was dried over anhydrous magnesium sulfate, and magnesium sulfate was then removed by filtration. The filtrate was concentrated under reduced pressure to obtain 9.27 g (24.5 mmols) of N-tert-butoxycarbonyl-D-valine (RS)-α-methoxycarbonylmethylbenzylamide as a solid.

reactant | N-tert-butoxycarbonyl-D-valine | 24.6 mmols, 5.34 g | C(C)(C)(C)OC(=O)N[C@H](C(C)C)C(=O)O | C10H19NO4
reactant | (RS)-α-methoxycarbonylmethylbenzylamine hydrochloride | 24.6 mmols, 5.31 g | Cl.COC(=O)CC(C1=CC=CC=C1)N
reactant | Triethylamine | 27.1 mmols, 3.78 ml | C(C)N(CC)CC | C6H15N
reactant | water | 27.1 mmols, 5.20 g | O | H2O
reactant | HOBt | 27.1 mmols, 3.66 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-tert-butoxycarbonyl-D-valine (RS)-α-methoxycarbonylmethylbenzylamide | 24.5 mmols, 9.27 g | COC(=O)CC(C1=CC=CC=C1)NC([C@H](NC(=O)OC(C)(C)C)C(C)C)=O | C20H30N2O5
